US06492363B2
Preparation of [4-Chloro-2-(1H-tetrazol-5-yl)-(4-iodo-2-methyl-phenyl)-amine
To a solution of 2-methyl-4-iodoaniline (3.52 g, 0.0151 mol) in THF (25 mL) at −78° C., LDA (2 molar solution in THF, 11.33 mL, 0.02267 mol) was added dropwise. After stirring for 0.5 hours, a solution of 1-(tetrazol-5-yl)-2-fluoro-5-chlorobenzene (1.5 g, 0.00756 mol) in THF (15 mL) was added dropwise. The reaction was stirred for 16 hours as it warmed up to room temperature. The reaction mixture was quenched with aqueous conc. NH4Cl solution and extracted with CH2Cl2. The organic layer was dried (MgSO4) and the solvent removed giving a crude product as an oil. The oil with CH2Cl2->CH2Cl2:MeOH (9.7:0.3) gave 1.5 g (48%) of the desired product:

reactant | 2-methyl-4-iodoaniline | 0.0151 mol, 3.52 g | CC1=C(N)C=CC(=C1)I | C7H8IN
reactant | LDA | 0.02267 mol, 2 molar, 11.33 mL | [Li+].CC(C)[N-]C(C)C
reactant | 1-(tetrazol-5-yl)-2-fluoro-5-chlorobenzene | 0.00756 mol, 1.5 g | N1N=NN=C1C1=C(C=CC(=C1)Cl)F | C7H4ClFN4
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-Chloro-2-(1H-tetrazol-5-yl)-(4-iodo-2-methyl-phenyl)-amine | 1.5 g, 48% | ClC1(CC(C(C=C1)N)(C)C1=NN=NN1)I | C8H11ClIN5
